US07074800B1
A solution of 7-(3-bromopropoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (2.89 g, 6.78 mmol) in piperidine (100 ml) was heated at 100° C. for 1 hour. After cooling, the volatiles were removed under vacuum. The residue was dissolved in methylene chloride, and washed with saturated ammonium chloride and brine. The organic layer was dried (MgSO4) and the volatiles were removed by evaporation. The residue was dried under vacuum to give 6-methoxy-7-(3-piperidinopropoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (2.4 g, 83%).

reactant | 7-(3-bromopropoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 6.78 mmol, 2.89 g | BrCCCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C18H23BrN2O5
reactant | piperidine | 100 ml | N1CCCCC1 | C5H11N
product | 6-methoxy-7-(3-piperidinopropoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 2.4 g, 83% | COC=1C=C2C(N(C=NC2=CC1OCCCN1CCCCC1)COC(C(C)(C)C)=O)=O | C23H33N3O5
